2150-11-30 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2150-11-29**] 06:58 PM
   - A Line placed, then lost, then replaced.
   -Pressures improved, but on Norepu .06 mcg/Kg/min
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-30**] 04:10 AM
   Daptomycin - [**2150-11-30**] 05:45 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: There are no changes to the
   medical and family history noted at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems noted
   at this time.
   Flowsheet Data as of  [**2150-11-30**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 89 (85 - 99) bpm
   BP: 105/38(55) {34/-2(9) - 134/45(70)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                    265 mL
                                                                    479 mL
   PO:
             TF:
   IVF:
                                                                    265 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   9.7 g/dL
   172 mg/dL
   4.0 mg/dL
   22 mEq/L
   4.3 mEq/L
   58 mg/dL
   107 mEq/L
   143 mEq/L
   31.1 %
   22.0 K/uL
        [image002.jpg]
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
                            [**2150-11-25**]  06:13 PM
                            [**2150-11-26**]  05:07 AM
                            [**2150-11-30**]  03:48 AM
   WBC
   13.5
   12.3
   15.9
   14.3
   17.5
   17.3
   15.4
   14.5
   22.0
   Hct
   28.8
   30.4
   31.1
   30.6
   28.9
   29.8
   28.0
   30.9
   30.4
   31.1
   Plt
   235
   193
   224
   194
   191
   208
   197
   227
   227
   Cr
   3.8
   3.0
   3.9
   2.5
   3.5
   2.6
   4.0
   Glucose
   118
   99
   98
   104
   65
   112
   172
   Other labs: PT / PTT / INR:14.8/32.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:82.7 %, Band:1.0 %,
   Lymph:13.7 %, Mono:2.5 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   A/P:
   75 with chronic respiratory failure s/p tracheostomy, type II diabetes,
   peripheral vascular disease s/p right BKA, CAD, atrial fibrillation,
   and ESRD on dialysis now with prolonged hospitalization for hypotension
   who is transferred back to the [**Hospital Unit Name 44**] for persistent hypotension.
   Hypotension:  Concern once again for septic physiology given rising
   white blood cell count and lethargy.  Most likely source would be his
   back wound but left toe ulcer, hemodialysis line and PICC line are also
   possible sites of infection. It is also possible that his hypotension
   was secondary to increased narcotics dosing on the floor.  For now will
   monitor closely.
   - cautious IVF boluses for SBP < 80
   - blood, urine and sputum cultures given worsening leukocytosis
   - currently on PO vancomycin alone given his history of clostridium
   difficle and prolonged antibiotic use
   - will not change antibiotics at this time
   - continue prednisone 5 mg daily
   - continue midodrine 15 mg [**Hospital1 **]
   - will decrease oxycodone back to 5 mg PO Q6H:PRN from 10 mg PO
   Q6H:PRN. Note Fent patch is still on.
   End Stage Renal Disease: Per notes last dialysis was on Saturday.
   - appreciate renal team assistance
   - continue epogen with dialysis
   Sacral Decubitus Ulcers:  Despite flexiseal and medications to create
   liquid stool he continues to have fecal contamination of his wounds.
   - appreciate plastics assistance
   - patient now aggreeable to diverting colostomy, will reconsult surgery
   after discussing with patient
   - continue kinair mattress
   - continue wound care
   Chronic Respiratory Failure:  Continues on trach mask oxygenating well.
   - continue trach mask
   Coronary Artery Disease:  Last echocardiogram with preserved ejection
   fraction.  Had troponin leak on admission which peaked at 0.53.
   - restart simvastatin 10 mg daily
   - continue to hold beta blocker given persistent hypotension
   Atrial Fibrillation: Currently well rate controlled.  [**Country 3664**] score 2.
   Currently not anticoagulated.
   - will hold aspirin until surgical plans can be determined
   Type II Diabetes: Blood sugars currently well controlled.
   - continue lantus with insulin sliding scale
   Peripheral Vascular Disease:  s/p BKA on right with left heel ulcer on
   leg.
   - concern from ID regarding left second toe ulcer.  Will ask podiatry
   to comment in AM
   - continue local wound care
   Plasma Cell Dyscrasia:  Known IgA kappa on electrophoresis, bone marrow
   with 5-10% plasma cells.  Also with known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   - Continued outpatient follow up
   Pain Control:  Patient with significant pain from sacral ulcer.
   Unfortunately blood pressures very tenuous in the setting of narcotic
   use.
   - continue tylenol standing 1000 mg PO Q6H
   - continue fentanyl patch 100 mcg Q72 hours
   - decrease oxycodone to 5 mg PO Q6H:PRN
   - continue lidocaine patches to back and heel ulcers
   Upper gastrointestinal bleeding:  No active issues.  Concern for guaiac
   positive NG aspirate on [**11-24**].  Hematocrit stable.  No persistent
   bleeding.
   - continue pantoprazole 40 mg IV Q12H
   - hold NSAIDs and aspirin
   FEN: NPO, tube feeds at goal, monitor electrolytes, no IVF for now
   Access: left sided PICC, right sided dialysis line
   Prophylaxis: Heparin SC, pantoprazole
   Code: Full
   Communication: Patient, son
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-11-17**] 12:00 AM
   Dialysis Catheter - [**2150-11-29**] 06:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-30 12:07:00 Physician Attending Progress Note
Chief Complaint: chronic respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient seemed a bit confused with BP in the 70's on transfer to MICU;
   he had recently received an increase in his dose of narcotics.
   Continued to complain of back pain.
   Overnight, BP has been labile. Received 250 cc fluid bolus X 2 without
   much change. BP trended down to the 60's. A-line placed - pressures
   similar to cuff pressures. Levophed started along with antibiotics.
   O2 sats good on trach mask.
   WBC elevated.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2150-11-29**] 06:58 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-30**] 04:10 AM
   Daptomycin - [**2150-11-30**] 05:45 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-30**] 08:00 AM
   Other medications:
   Insulin, epogen, iron, colace, lido patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-30**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 96 (85 - 102) bpm
   BP: 107/40(58) {34/-2(9) - 134/45(70)} mmHg
   RR: 21 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                    265 mL
                                                                    538 mL
   PO:
             TF:
   IVF:
                                                                    265 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: BKA, Left: Absent edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place - did not assess re time,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed, Asterixis
   Labs / Radiology
   9.7 g/dL
   227 K/uL
   172 mg/dL
   4.0 mg/dL
   22 mEq/L
   4.3 mEq/L
   58 mg/dL
   107 mEq/L
   143 mEq/L
   31.1 %
   22.0 K/uL
        [image002.jpg]
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
                            [**2150-11-25**]  06:13 PM
                            [**2150-11-26**]  05:07 AM
                            [**2150-11-30**]  03:48 AM
   WBC
   13.5
   12.3
   15.9
   14.3
   17.5
   17.3
   15.4
   14.5
   22.0
   Hct
   28.8
   30.4
   31.1
   30.6
   28.9
   29.8
   28.0
   30.9
   30.4
   31.1
   Plt
   235
   193
   224
   194
   191
   208
   197
   227
   227
   Cr
   3.8
   3.0
   3.9
   2.5
   3.5
   2.6
   4.0
   Glucose
   118
   99
   98
   104
   65
   112
   172
   Other labs: PT / PTT / INR:14.8/32.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:82.7 %, Band:1.0 %,
   Lymph:13.7 %, Mono:2.5 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.8
   mg/dL
   Imaging: CXR: increased haziness at left base but no focal infiltrate
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ACIDOSIS
   ANEMIA
   Patient continues on norepinephrine. Will give additional IV fluids.
   Concern about possible infection of dialysis catheter; will obtain
   cultures from catheter today. Antibiotics restarted. Would increase
   steroids to "stress" levels.
   Asterixis present; probably related to infection and hypotension.
   Recheck LFT's. Check ABG for hypercapnia.
   Patient to have dialysis today, but no net fluid to be removed. Mild
   metabolic acidosis persists.
   Hct stable; no need for transfusion now.
   O2 sats acceptable.
   ICU Care
   Nutrition: tube feeds
   Nutren Renal (Full) - [**2150-11-29**] 07:00 PM
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-11-17**] 12:00 AM
   Dialysis Catheter - [**2150-11-29**] 06:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2150-12-01 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had MAPs in the 40's; given levophed initially, but then switched to
   vasopressin.
   Surgery on hold due to current decline.
   No new micro data.
   Blood gas hypercarbic, acidotic; repeat was also hypercarbic but
   improved.
   Patient had dialysis yesterday. Now off vasopressors. O2 sats remain
   good. Patient receiving stress dose steroids. If he has to go back on
   vasopressors tonight, would add vasopressin. First response to drop in
   BP will be fluids; re-add levophed if no response to 1-2 liters of
   fluid.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-30**] 05:45 AM
   Vancomycin - [**2150-11-30**] 12:00 PM
   Meropenem - [**2150-11-30**] 08:32 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-1**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 84 (71 - 102) bpm
   BP: 118/46(71) {64/27(39) - 154/51(85)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,300 mL
                                                                    134 mL
   PO:
             TF:
   IVF:
                                                                  1,240 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    900 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: 7.37/54/99.[**Numeric Identifier 128**]/26/3
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: BKA, Left: Absent edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place - did not assess re time,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed, Asterixis
   Labs / Radiology
   212 K/uL
   9.1 g/dL
   194 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   147 mEq/L
   29.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
                            [**2150-11-25**]  06:13 PM
                            [**2150-11-26**]  05:07 AM
                            [**2150-11-30**]  03:48 AM
                            [**2150-11-30**]  01:00 PM
                            [**2150-11-30**]  08:44 PM
                            [**2150-12-1**]  03:08 AM
   WBC
   14.3
   17.5
   17.3
   15.4
   14.5
   22.0
   17.3
   Hct
   30.6
   28.9
   29.8
   28.0
   30.9
   30.4
   31.1
   29.5
   Plt
   194
   191
   208
   197
   227
   227
   212
   Cr
   2.5
   3.5
   2.6
   4.0
   1.8
   TCO2
   25
   32
   Glucose
   104
   65
   112
   172
   194
   Other labs: PT / PTT / INR:14.8/32.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:[**8-30**], Alk Phos / T Bili:139/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:93.5 %, Band:1.0 %,
   Lymph:4.8 %, Mono:1.4 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:119 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   A/P:
   75 with chronic respiratory failure s/p tracheostomy, type II diabetes,
   peripheral vascular disease s/p right BKA, CAD, atrial fibrillation,
   and ESRD on dialysis now with prolonged hospitalization for hypotension
   who is transferred back to the [**Hospital Unit Name 44**] for persistent hypotension.
   Hypotension:  Concern once again for septic physiology given rising
   white blood cell count and lethargy.  Most likely source would be his
   back wound but left toe ulcer, hemodialysis line and PICC line are also
   possible sites of infection. It is also possible that his hypotension
   was secondary to increased narcotics dosing on the floor.  For now will
   monitor closely.
   - cautious IVF boluses for SBP < 80
   - blood, urine and sputum cultures given worsening leukocytosis
   - currently on PO vancomycin alone given his history of clostridium
   difficle and prolonged antibiotic use
   - will not change antibiotics at this time
   - continue prednisone 5 mg daily
   - continue midodrine 15 mg [**Hospital1 **]
   - will decrease oxycodone back to 5 mg PO Q6H:PRN from 10 mg PO
   Q6H:PRN. Note Fent patch is still on.
   End Stage Renal Disease: Per notes last dialysis was on Saturday.
   - appreciate renal team assistance
   - continue epogen with dialysis
   Sacral Decubitus Ulcers:  Despite flexiseal and medications to create
   liquid stool he continues to have fecal contamination of his wounds.
   - appreciate plastics assistance
   - patient now aggreeable to diverting colostomy, will reconsult surgery
   after discussing with patient
   - continue kinair mattress
   - continue wound care
   Chronic Respiratory Failure:  Continues on trach mask oxygenating well.
   - continue trach mask
   Coronary Artery Disease:  Last echocardiogram with preserved ejection
   fraction.  Had troponin leak on admission which peaked at 0.53.
   - restart simvastatin 10 mg daily
   - continue to hold beta blocker given persistent hypotension
   Atrial Fibrillation: Currently well rate controlled.  [**Country 3664**] score 2.
   Currently not anticoagulated.
   - will hold aspirin until surgical plans can be determined
   Type II Diabetes: Blood sugars currently well controlled.
   - continue lantus with insulin sliding scale
   Peripheral Vascular Disease:  s/p BKA on right with left heel ulcer on
   leg.
   - concern from ID regarding left second toe ulcer.  Will ask podiatry
   to comment in AM
   - continue local wound care
   Plasma Cell Dyscrasia:  Known IgA kappa on electrophoresis, bone marrow
   with 5-10% plasma cells.  Also with known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   - Continued outpatient follow up
   Pain Control:  Patient with significant pain from sacral ulcer.
   Unfortunately blood pressures very tenuous in the setting of narcotic
   use.
   - continue tylenol standing 1000 mg PO Q6H
   - continue fentanyl patch 100 mcg Q72 hours
   - decrease oxycodone to 5 mg PO Q6H:PRN
   - continue lidocaine patches to back and heel ulcers
   Upper gastrointestinal bleeding:  No active issues.  Concern for guaiac
   positive NG aspirate on [**11-24**].  Hematocrit stable.  No persistent
   bleeding.
   - continue pantoprazole 40 mg IV Q12H
   - hold NSAIDs and aspirin
   FEN: NPO, tube feeds at goal, monitor electrolytes, no IVF for now
   Access: left sided PICC, right sided dialysis line
   Prophylaxis: Heparin SC, pantoprazole
   Code: Full
   Communication: Patient, son
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2150-11-29**] 07:00 PM
   Glycemic Control:
   Lines:
   PICC Line - [**2150-11-17**] 12:00 AM
   Dialysis Catheter - [**2150-11-29**] 06:58 PM
   Arterial Line - [**2150-11-30**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-01 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient remained off vasopressors through the night.  Low grade fever.
   Continues on antibiotics.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Trach tube
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-30**] 05:45 AM
   Vancomycin - [**2150-11-30**] 12:00 PM
   Meropenem - [**2150-12-1**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-1**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 78 (71 - 98) bpm
   BP: 105/38(60) {64/27(39) - 154/51(85)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,300 mL
                                                                    329 mL
   PO:
             TF:
   IVF:
                                                                  1,240 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    900 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.37/54/99.[**Numeric Identifier 128**]/26/3
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild distress -
   pain from sacral decubitus
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Scattered rales anterior and lateral
   fields, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: BKA, Left: Absent edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Difficult to assess with trach, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   212 K/uL
   194 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   147 mEq/L
   29.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
                            [**2150-11-25**]  06:13 PM
                            [**2150-11-26**]  05:07 AM
                            [**2150-11-30**]  03:48 AM
                            [**2150-11-30**]  01:00 PM
                            [**2150-11-30**]  08:44 PM
                            [**2150-12-1**]  03:08 AM
   WBC
   14.3
   17.5
   17.3
   15.4
   14.5
   22.0
   17.3
   Hct
   30.6
   28.9
   29.8
   28.0
   30.9
   30.4
   31.1
   29.5
   Plt
   194
   191
   208
   197
   227
   227
   212
   Cr
   2.5
   3.5
   2.6
   4.0
   1.8
   TCO2
   25
   32
   Glucose
   104
   65
   112
   172
   194
   Other labs: PT / PTT / INR:14.8/32.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:[**8-30**], Alk Phos / T Bili:139/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:93.5 %, Band:1.0 %,
   Lymph:4.8 %, Mono:1.4 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:119 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ANEMIA
   HYPERNATREMIA
   Blood pressure improved. Off vasopressors for nearly 24 hours. Only low
   grade fever in past 24 hours.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   Electrolytes acceptable as is his acid-base status. Dialysis three days
   a week.
   Needs free water repletion.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2150-11-29**] 07:00 PM
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-11-17**] 12:00 AM
   Dialysis Catheter - [**2150-11-29**] 06:58 PM
   Arterial Line - [**2150-11-30**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2150-12-02 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - off pressors since 0600 [**12-1**]- SBP < 80, start with IV bolus before
   pressors
   - antibx - continue vanco/dapto/[**Last Name (un) 430**]
   - Hydrocortisone for 1 more day and plan to start prednisone in am
   - leukocytosis
   - bcx ngtd
   - received 1 L D5 W for free water deficit
   - surgery - no note re: reschedule diverting colostomy
   - Plastics - debrided his sacral wound; advise dakin tid x 3 days
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-30**] 05:45 AM
   Vancomycin - [**2150-11-30**] 12:00 PM
   Meropenem - [**2150-12-1**] 08:06 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-12-1**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-2**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 81 (63 - 87) bpm
   BP: 130/42(68) {92/29(50) - 145/84(103)} mmHg
   RR: 28 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,466 mL
                                                                     38 mL
   PO:
             TF:
   IVF:
                                                                  1,346 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,366 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: BKA, Left: Absent edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place - did not assess re time,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed, Asterixis
   Labs / Radiology
   213 K/uL
   8.7 g/dL
   216
   2.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   46 mg/dL
   104 mEq/L
   140 mEq/L
   27.4 %
   15.2 K/uL
        [image002.jpg]
                            [**2150-11-26**]  05:07 AM
                            [**2150-11-30**]  03:48 AM
                            [**2150-11-30**]  01:00 PM
                            [**2150-11-30**]  08:44 PM
                            [**2150-12-1**]  03:08 AM
                            [**2150-12-1**]  12:00 PM
                            [**2150-12-1**]  06:00 PM
                            [**2150-12-2**]  12:00 AM
                            [**2150-12-2**]  04:20 AM
                            [**2150-12-2**]  07:00 AM
   WBC
   14.5
   22.0
   17.3
   15.2
   Hct
   30.4
   31.1
   29.5
   27.4
   Plt
   227
   227
   212
   213
   Cr
   2.6
   4.0
   1.8
   2.7
   TCO2
   25
   32
   Glucose
   112
   172
   194
   [**Telephone/Fax (2) 7060**]16
   Other labs: PT / PTT / INR:14.8/32.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:[**8-30**], Alk Phos / T Bili:139/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:93.5 %, Band:1.0 %,
   Lymph:4.8 %, Mono:1.4 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:119 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   A/P:
   75 with chronic respiratory failure s/p tracheostomy, type II diabetes,
   peripheral vascular disease s/p right BKA, CAD, atrial fibrillation,
   and ESRD on dialysis now with prolonged hospitalization for hypotension
   who is transferred back to the [**Hospital Unit Name 44**] for persistent hypotension.
   Hypotension:  Concern once again for septic physiology given earlier
   rising white blood cell count and lethargy, now improving BP 118-154.
   Most likely source would be his back wound but left toe ulcer,
   hemodialysis line and PICC line are also possible sites of infection.
   It is also possible that his hypotension was secondary to increased
   narcotics dosing on the floor.  For now will monitor closely.
   - cautious IVF boluses for SBP < 80
   -Wean pressors
   -f/u blood, urine and sputum cultures given worsening leukocytosis
   - currently on PO vancomycin alone given his history of clostridium
   difficle and prolonged antibiotic use
   - continue prednisone 5 mg daily
   - continue midodrine 15 mg [**Hospital1 **]
   - oxycodonewas changed  back to 5 mg PO Q6H:PRN from 10 mg PO Q6H:PRN.
   Note Fent patch is still on.
   End Stage Renal Disease: Per notes last dialysis was on Saturday.
   - appreciate renal team assistance
   - continue epogen with dialysis
   Sacral Decubitus Ulcers:  Despite flexiseal and medications to create
   liquid stool he continues to have fecal contamination of his wounds.
   - appreciate plastics assistance
   - patient now aggreeable to diverting colostomy, will reconsult surgery
   after discussing with patient
   - continue kinair mattress
   - continue wound care
   Chronic Respiratory Failure:  Continues on trach mask oxygenating well.
   - continue trach mask
   Coronary Artery Disease:  Last echocardiogram with preserved ejection
   fraction.  Had troponin leak on admission which peaked at 0.53.
   - restart simvastatin 10 mg daily
   - continue to hold beta blocker given persistent hypotension
   Atrial Fibrillation: Currently well rate controlled.  [**Country 3664**] score 2.
   Currently not anticoagulated.
   - will hold aspirin until surgical plans can be determined
   Type II Diabetes: Blood sugars currently well controlled.
   - continue lantus with insulin sliding scale
   Peripheral Vascular Disease:  s/p BKA on right with left heel ulcer on
   leg.
   - concern from ID regarding left second toe ulcer.  Will ask podiatry
   to comment in AM
   - continue local wound care
   Plasma Cell Dyscrasia:  Known IgA kappa on electrophoresis, bone marrow
   with 5-10% plasma cells.  Also with known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   - Continued outpatient follow up
   Pain Control:  Patient with significant pain from sacral ulcer.
   Unfortunately blood pressures very tenuous in the setting of narcotic
   use.
   - continue tylenol standing 1000 mg PO Q6H
   - continue fentanyl patch 100 mcg Q72 hours
   - decrease oxycodone to 5 mg PO Q6H:PRN
   - continue lidocaine patches to back and heel ulcers
   Upper gastrointestinal bleeding:  No active issues.  Concern for guaiac
   positive NG aspirate on [**11-24**].  Hematocrit stable.  No persistent
   bleeding.
   - continue pantoprazole 40 mg IV Q12H
   - hold NSAIDs and aspirin
   FEN: NPO, tube feeds at goal, monitor electrolytes, no IVF for now
   Access: left sided PICC, right sided dialysis line
   Prophylaxis: Heparin SC, pantoprazole
   Code: Full
   Communication: Patient, son
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2150-11-29**] 07:00 PM
   Glycemic Control:
   Lines:
   PICC Line - [**2150-11-17**] 12:00 AM
   Dialysis Catheter - [**2150-11-29**] 06:58 PM
   Arterial Line - [**2150-11-30**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-02 10:59:00 Physician Attending Progress Note
Chief Complaint: Hypotension, chronic renal failure, decubitus ulcer,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afebrile. Blood pressure good off of pressors.  Free water being
   repleted.
   WBC coming down.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-30**] 05:45 AM
   Vancomycin - [**2150-11-30**] 12:00 PM
   Meropenem - [**2150-12-1**] 08:06 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-12-1**] 05:30 PM
   Other medications:
   Lipitor, heparin, fentanyl, protonix, insulin, epogen, iron, colace,
   lido patch, hydrocortisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-2**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 60 (60 - 87) bpm
   BP: 121/33(56) {92/31(50) - 145/84(103)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,466 mL
                                                                     53 mL
   PO:
             TF:
   IVF:
                                                                  1,346 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,366 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds very distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: , No(t) Absent : , Rhonchorous: ), Scattered rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: BKA, Left: Trace edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   213 K/uL
   216
   2.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   46 mg/dL
   104 mEq/L
   140 mEq/L
   27.4 %
   15.2 K/uL
        [image002.jpg]
                            [**2150-11-26**]  05:07 AM
                            [**2150-11-30**]  03:48 AM
                            [**2150-11-30**]  01:00 PM
                            [**2150-11-30**]  08:44 PM
                            [**2150-12-1**]  03:08 AM
                            [**2150-12-1**]  12:00 PM
                            [**2150-12-1**]  06:00 PM
                            [**2150-12-2**]  12:00 AM
                            [**2150-12-2**]  04:20 AM
                            [**2150-12-2**]  07:00 AM
   WBC
   14.5
   22.0
   17.3
   15.2
   Hct
   30.4
   31.1
   29.5
   27.4
   Plt
   227
   227
   212
   213
   Cr
   2.6
   4.0
   1.8
   2.7
   TCO2
   25
   32
   Glucose
   112
   172
   194
   [**Telephone/Fax (2) 7060**]16
   Other labs: PT / PTT / INR:14.8/32.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:[**8-30**], Alk Phos / T Bili:139/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:93.5 %, Band:1.0 %,
   Lymph:4.8 %, Mono:1.4 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:119 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   Blood pressure has been very stable over the past 24 hours. We wonder
   if this may relate to higher doses of steroids. Will transition to
   prednisone at 40 mg/day and then try a slower taper.
   Continues on dialysis with acceptable electrolytes and acid-base
   status.
   Hct stable. No need for transfusion now.
   Continues on antibiotics.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2150-11-29**] 07:00 PM
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-11-17**] 12:00 AM
   Dialysis Catheter - [**2150-11-29**] 06:58 PM
   Arterial Line - [**2150-11-30**] 05:30 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes